US08222274B2
A 230 mg portion of tert-butyl 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrrole-3-carboxylate was dissolved in 2 ml of dichloromethane, and 1 ml of trifluoroacetic acid was added under ice-cooling, followed by stirring at room temperature for 1.5 hours. The reaction liquid was concentrated under a reduced pressure, and a saturated sodium bicarbonate aqueous solution was added, followed by three times extractions with chloroform. After drying the organic layer with anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (methanol:chloroform=10:90-15:85-20:80) to obtain 124 mg of 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrrole-3-carboxylic acid as a colorless solid.

reactant | tert-butyl 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrrole-3-carboxylate | FC1=CC=C(C=C1)CCN1C(=C(C=C1C1CCN(CC1)C)C(=O)OC(C)(C)C)C | C24H33FN2O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrrole-3-carboxylic acid | 124 mg | FC1=CC=C(C=C1)CCN1C(=C(C=C1C1CCN(CC1)C)C(=O)O)C | C20H25FN2O2
